US07098226B2
2-Propylaminoacetic acid N-(1-adamantyl)amide (Intermediate No. 9-1)
Next, a 4 N solution of hydrogen chloride in ethyl acetate (55 ml, 0.22 mol) was added to 2-[N′(t-butoxycarbonyl)-N-propylamino]acetic acid N-(1-adamantyl)amide (7.68 g, 21.9 mmol), and the mixture was stirred at room temperature for one hour. The resulting crystals were filtered off with ethyl acetate and washed with ethyl acetate to give 5.97 g (95%) of the titled compound as colorless crystals.

reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 0.22 mol, 55 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-[N′(t-butoxycarbonyl)-N-propylamino]acetic acid N-(1-adamantyl)amide | 21.9 mmol, 7.68 g | C12(CC3CC(CC(C1)C3)C2)NC(CN(CCC)C(=O)OC(C)(C)C)=O | C20H34N2O3
product | 2-Propylaminoacetic acid N-(1-adamantyl)amide | 5.97 g, 95% | C12(CC3CC(CC(C1)C3)C2)NC(CNCCC)=O | C15H26N2O
